US07491732B2
To a stirred solution of 4-(4-nitrobenzoyl)thiomorpholine (1.26 g, 5 mmol) in ethanol (80 mL) and water (20 mL) was added NH4Cl (2.65 g) and heated to 80° C. To this heterogeneous reaction mixture at 80° C. was added iron powder (2.75 g) portion wise manner under a vigorous stirring in nitrogen atmosphere and the stirring was continued for 2 h. The reaction mixture was filtered through a Celite pad when hot and washed the pad with methanol. The filtrate was concentrated, diluted with water, extracted with CH2Cl2 (3×75 mL), dried (Na2SO4), filtered and concentrated. Finally dried under high vacuum to afford 1.11 g (100%) of the 4-(4-aminobenzoyl)thiomorpholine. 1H NMR (CDCl3, 300 MHz): δ 7.21 (d, 2H, J=8.4 Hz), 6.64 (d, 2H, J=8.1 Hz), 3.86 (br s, 6H), 2.64 (t, 4H, J=4.5 Hz); LCMS (m/z): 223 (MH+).

reactant | 4-(4-nitrobenzoyl)thiomorpholine | 5 mmol, 1.26 g | [N+](=O)([O-])C1=CC=C(C(=O)N2CCSCC2)C=C1 | C11H12N2O3S
reactant | NH4Cl | 2.65 g | [NH4+].[Cl-]
solvent | ethanol | 80 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
catalyst | iron | 2.75 g | [Fe] | Fe
product | 4-(4-aminobenzoyl)thiomorpholine | 1.11 g, 100% | NC1=CC=C(C(=O)N2CCSCC2)C=C1 | C11H14N2OS
